.SUBCKT sg13g2_xor2_2 X A B VDD VSS
*.PININFO A:I B:I X:O VDD:B VSS:B
MN0 net1 A VSS VSS sg13_lv_nmos w=550.00n l=130.00n ng=1
MN3 X B net3 VSS sg13_lv_nmos w=1.48u l=130.00n ng=2
MN2 X net1 VSS VSS sg13_lv_nmos w=1.48u l=130.00n ng=2
MN4 net3 A VSS VSS sg13_lv_nmos w=1.48u l=130.00n ng=2
MN1 net1 B VSS VSS sg13_lv_nmos w=550.00n l=130.00n ng=1
MP0 net6 A VDD VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
MP1 net1 B net6 VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
MP2 net5 A VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
MP4 net5 B VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
MP3 X net1 net5 VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
.ENDS
